Name:  ___.             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Latex
 
Attending: ___.
 
Chief Complaint:
Wound Dehisence
 
Major Surgical or Invasive Procedure:
1. Local flap advancement of left lumbar skin.
2. V-Y advancement flap of the right lower lumbar skin and
    local tissue rearrangement

 
History of Present Illness:
___ female who under went previous spinal surgery for a 
spinal metastasis ___ . The patient wasseen her after spinal 
wound follow-up on a regular basis. She had a small wound 
breakdown a went back to the OR for a debridement on ___ she 
then followed up this week for her suture removal. On the day of 
admission her primary care noted her wound was open thus she 
returned for further management. 
 
Past Medical History:
Renal Cell Carcinoma
Adrenal recurrence
Rt. nephrectomy ___
Adrenalectomy ___
Left knee surgery ___
T&A
Polypectomies 
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
O: T:98.6 BP: 122/78 HR: 81 R 18 O2Sats 95% 
Gen: WD/WN, comfortable, NAD. 
HEENT: Pupils:3.0mm EOMs full 
Neck: Supple. 
Lungs: CTA bilaterally. 
Cardiac: RRR. S1/S2. 
Abd: Soft, NT, BS+ 
Extrem: Warm and well-perfused. 
Neuro: 
Mental status: Awake and alert, cooperative with exam, normal 
affect. 
Orientation: Oriented to person, place, and date. 
Motor: 
D B T WE WF IP Q H AT ___ G 
R ___ 5 5 
L ___ 5 5 
 
Sensation: Intact to light touch, propioception, pinprick and 
vibration bilaterally. 
 
Reflexes: B T Br Pa Ac 
Right ___ +1 +1 
Left ___ +1 +1  
 
Propioception intact 
Toes downgoing bilaterally 
 On discharge ___:

O: T: 100 BP: 103/75 HR: 88 R 18 O2Sats 98% 
Gen: WD/WN, comfortable, NAD. 
HEENT: Pupils:3.0mm to 2.0mm EOMs full 
Neck: Supple. No JVD or Upstrokes
Lungs: CTA bilaterally. 
Cardiac: RRR. S1/S2. 
Abd: Soft, NT, BS+ 
Extrem: Warm and well-perfused. Lumbar incision is clear. There 
is no drainage, edema or erythema. Sutures are intact
Neuro: 
Mental status: Awake and alert, cooperative with exam, normal 
affect. 
Orientation: Oriented to person, place, and date. 
Motor: 
D B T WE WF IP Q H AT ___ G 
R ___ 5 5 
L ___ 5 5 
 
Sensation: Intact to light touch 
Propioception intact 
Toes downgoing bilaterally 

 
Pertinent Results:
___ 12:50PM BLOOD WBC-6.7 RBC-3.62* Hgb-9.8* Hct-31.5* 
MCV-87 MCH-27.2 MCHC-31.2 RDW-15.7* Plt ___
___ 11:00AM BLOOD Neuts-73.3* ___ Monos-6.5 Eos-1.4 
Baso-0.3
___ 12:50PM BLOOD Plt ___
___ 08:10PM BLOOD Glucose-108* UreaN-12 Creat-0.9 Na-136 
K-4.2 Cl-99 HCO3-30 AnGap-11
___ 08:10PM BLOOD Amylase-15
___ 08:10PM BLOOD CRP-58.3*

___
CT CHEST WITH CONTRAST: A nodule in the left apex (2:14) 
measuring 14 mm has increased in size. There is scarring and 
chain suture at the left apex 
related to prior wedge resection, which appears stable. There is 
minimal 
bibasilar dependent atelectasis. No other masses or nodules are 
seen. No 
pleural effusion is present. Airways appear patent to the 
segmental levels 
bilaterally. Target lesion #1 in the mediastinum measuring 9 x 6 
mm (2:16) 
has slightly decreased in size. Target lesion #2 in the 
mediastinum (2:20) 
measuring 13 x 3 mm is unchanged. Target lesion #3 (2:18) in the 
mediastinum measuring 8 x 5 mm is unchanged. No significant 
axillary, hilar, or mediastinal adenopathy is present. 

CT ABDOMEN WITH CONTRAST: Status post right nephrectomy and 
adrenalectomy 
with multiple surgical clips in the renal fossa. No evidence for 
suspicious nodules in the resection bed. There is a hypodensity 
in the left kidney, which is likely a simple cyst but is 
incompletely characterized on this study. Otherwise, the left 
kidney appears normal without stones, masses, or hydronephrosis. 
The spleen, left adrenal, gallbladder, liver appear normal. The 
pancreas is fatty replaced but is otherwise normal. Abdominal 
aorta and its branches appear widely patent. Stomach and 
abdominal loops of small bowel appear normal. No free air or no 
free fluid is seen. No retroperitoneal or mesenteric adenopathy 
is present. 

CT PELVIS WITH CONTRAST: There are colonic diverticula 
particularly at the 
sigmoid colon without evidence for diverticulitis. Otherwise, 
pelvic loops of small and large bowel appear normal. Appendix 
appears normal. No free air or no free fluid is seen. Bladder 
and uterus appear normal. Adjacent to the left iliac artery 
(2:90) is a heterogeneously enhancing soft tissue mass measuring 
3.5 x 3.5 cm which has increased in size compared to the prior 
study. Anterior and invading into the left sacrum is a 6.2 x 5.4 
cm mass which has appreciably increased in size compared to the 
prior study. No evidence for bowel obstruction. There is a 
fat-containing ventral hernia (2:75). No bowel loops are seen in 
this hernia. 
  
BONE AND SOFT TISSUE WINDOWS: Vertebral fusion hardware spans 
from T10 to L3 with bilateral pedicle screws at T10, T11, T12, 
L2 and L3. Unchanged loss of vertebral body height at L1. No new 
bony metastatic disease is seen at that site; however, 
evaluation is somewhat limited due to extensive streak artifact 
from fusion hardware. In the posterior aspect of the left iliac 
wing (2:74 through 2:80) is a soft tissue density measuring 6.1 
x 3.3 cm, which may be a hematoma or seroma secondary to bone 
graft harvesting. Surrounding this soft tissue density are 
amorphous areas of calcification which may represent areas of 
dystrophic calcification secondary to bone harvest. This is 
unlikely to represent an area of metastatic disease; however, 
attention should be paid on followup. 
  
PELVIS U.S., TRANSVAGINAL ___
IMPRESSION: 
1. Enlarged endometrium in this postmenopausal patient, warrants 
further 
evaluation as discussed with ___ APN on the day of 
the study. 
2. Large left adnexal nodal mass, better seen on CT from the 
same date. 

 
Brief Hospital Course:
Ms ___ was admitted to the surgical floor, she was started on 
Vancomycin and continued on Keflex. A torso CT was done at the 
request of her oncologist please see results section for further 
detail.  During her first hospital day she passed a large golf 
ball size clot from her vagina, GYN was consulted they 
recommended a pelvic ultrasound and this showed an enlarged 
endometrium whcih warrents futher follow-up out-pt. She was 
taken to the OR on ___ where she had a wound revision/flap by 
plastic & neurosurgery. She tolerated the surgery well and then 
had a PICC placed on ___ due to the need for Ampicillin 2G q4hr 
for 4weeks and Flagyl 500mg PO q8 for 6weeks for positive 
C-diff. She was required to have weekly ALT, AST, Tbili, Alk 
Phos, CBC with diff results faxed to Dr. ___ 
disease) @ ___. Because of her new flap, she had a 
special mattress ordered for while she was in bed to alleviate 
any potential pressure to that area. On ___, she complained of 
left lower extremity pain; LENIS were performed and determined 
to be negative for any clot. 
 
Medications on Admission:
Metoprolol ___ tablet b.i.d., Colace, Senokot, MiraLax, 
Protonix 40, Keflex, Ativan 2 mg, aspirin 325, B6 100

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Lumbar Wound Dehisence

 
Discharge Condition:
Neurologically stable

 
Discharge Instructions:
  •Do not smoke.
•Keep your wound(s) clean and dry / No tub baths or pool 
swimming for two weeks from your date of surgery.
•No pulling up, lifting more than 10 lbs., or excessive bending 
or twisting.
•Limit your use of stairs to ___ times per day.
•Have a friend or family member check your incision daily for 
signs of infection.
•Take your pain medication as instructed; you may find it best 
if taken in the morning when you wake-up for morning stiffness, 
and before bed for sleeping discomfort.
•Do not take any anti-inflammatory medications such as Motrin, 
Advil, Aspirin, and Ibuprofen etc. unless directed by your 
doctor.
•Increase your intake of fluids and fiber, as pain medicine 
(narcotics) can cause constipation. We recommend taking an over 
the counter stool softener, such as Docusate (Colace) while 
taking narcotic pain medication.
•Clearance to drive and return to work will be addressed at 
your post-operative office visit.
*Please exercise caution when in the sitting position for your 
new flap. 

CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING:

•Pain that is continually increasing or not relieved by pain 
medicine.
•Any weakness, numbness, tingling in your extremities.
•Any signs of infection at the wound site: redness, swelling, 
tenderness, and drainage.
•Fever greater than or equal to 101° F. 
•Any change in your bowel or bladder habits (such as loss of 
bowl or urine control). 

 
Followup Instructions:
___